US04526979
Similarly, a solution of 109 g of 2-chloro-3-nitrobenzoyl chloride in 100 ml of tetrahydrofuran was reacted with a mixture of 103 g of 5-aminotetrazole monohydrate in 1200 ml of hot tetrahydrofuran and 50 ml of water. A voluminous precipitate appeared and, after 1 hour, the mixture was diluted with 2 liters of water and the resulting white solid was collected and oven-dried to give 2-chloro-3-nitro-N-(1H-tetrazol-5-yl)-benzamide melting at about 279° C. with decomposition. In this case, the indicated acid chloride was obtained by the reaction of 2-chloro-3-nitrobenzoic acid with phosphorus pentachloride in cyclohexane. The acid chloride melts at about 57°-59° C.

reactant | 2-chloro-3-nitrobenzoyl chloride | 109 g | ClC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C7H3Cl2NO3
reactant | 5-aminotetrazole monohydrate | 103 g | O.NC1=NN=NN1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | water | 2 liters | O | H2O
product | 2-chloro-3-nitro-N-(1H-tetrazol-5-yl)-benzamide | ClC1=C(C(=O)NC2=NN=NN2)C=CC=C1[N+](=O)[O-] | C8H5ClN6O3
